US09376418B2
A mixture of N-[3-(5-bromopyridin-3-yl)-5-methylphenyl]-4-(trifluoromethyl)pyrimidin-2-amine (35.0 mg, 0.128 mmol), 2-methoxyethanamine (9.61 mg, 0.128 mmol), Pd2(dba)3 (7.83 mg, 0.0086 mmol), Xantphos (14.9 mg, 0.026 mmol), and Cs2CO3 (69.7 mg, 0.214 mmol) in 1,4-dioxane (0.855 mL, 0.1 M) was purged with argon and heated to 90° C. for 12 hours. The reaction mixture was cooled to room temperature and DMSO (1.00 mL) and Si-Thiol (23.4 mg, 1.84 mmol/g) were added to the reaction mixture. The reaction mixture was stir at room temperature for 4 hours and then passed through a filter, concentrated in vacuo, and the crude residue was purified by reverse phase preparative HPLC (0:100 to 95:5 acetonitrile:water: 0.1% v/v formic acid modifier) to afford N-(3-{5-[(2-methoxyethyl)amino]pyridin-3-yl}-5-methylphenyl)-4-(trifluoromethyl)pyrimidin-2-amine as the formic acid salt. MS APCI calc'd for C20H21F3N4O [M+H]+ 404. found 404. 1H NMR (600 MHz, DMSO-d6) δ 10.20 (s, 1H), 8.80 (d, J=4.9 Hz, 1H), 7.97 (d, J=5.6 Hz, 2H), 7.87 (s, 1H), 7.50 (s, 1H), 7.24 (d, J=4.9 Hz, 1H), 7.09 (d, J=6.1 Hz, 2H), 3.49 (t, J=5.5 Hz, 2H), 3.33-3.22 (m, 5H), 2.32 (s, 3H).

reactant | N-[3-(5-bromopyridin-3-yl)-5-methylphenyl]-4-(trifluoromethyl)pyrimidin-2-amine | 0.128 mmol, 35.0 mg | BrC=1C=C(C=NC1)C=1C=C(C=C(C1)C)NC1=NC=CC(=N1)C(F)(F)F | C17H12BrF3N4
reactant | 2-methoxyethanamine | 0.128 mmol, 9.61 mg | COCCN | C3H9NO
reactant | Xantphos | 0.026 mmol, 14.9 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 0.214 mmol, 69.7 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 0.1 M, 0.855 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.0086 mmol, 7.83 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(3-{5-[(2-methoxyethyl)amino]pyridin-3-yl}-5-methylphenyl)-4-(trifluoromethyl)pyrimidin-2-amine | COCCNC=1C=C(C=NC1)C=1C=C(C=C(C1)C)NC1=NC=CC(=N1)C(F)(F)F | C20H20F3N5O
